US04185992
3,4-Dibromobenzoic acid (28 g, described by Miller, J.C.S. 61, 1033 (1892)) was suspended with stirring in toluene (150 ml) at 50° C. Sodium dihydrobis(2-methoxyethoxy)aluminate (70% w/v, in toluene, 52 ml) was added over 30 minutes at 50° C. The mixture was heated on a steam bath for 1 hour, cooled to 20° C. and hydrolysed by the addition of hydrochloric acid (6N; 150 ml) with cooling. The mixture was separated and the aqueous phase was extracted with diethyl ether (100 ml). The combined organic extracts were washed with saturated sodium bicarbonate solution and water, dried over sodium sulphate, filtered and evaporated to give 3,4-dibromobenzyl alcohol (19 g) as a light red oil. The unpurified alcohol was dissolved in chloroform (60 ml) and the solution was heated at reflux. Thionyl chloride (20 ml) was added in portions over 10 minutes and the solution was heated at reflux for 1 hour. The reaction mixture was evaporated to give a light oily residue, which was repeatedly diluted with chloroform (3×50 ml) and the combined chloroformic solutions evaporated. The residue was dissolved in diethyl ether, washed with saturated sodium bicarbonate solution, dried over sodium sulphate, filtered and evaporated. 3,4-Dibromobenzyl chloride (20 g) was obtained as a clear mobile oil of sufficient purity for further reaction.

reactant | 3,4-Dibromobenzoic acid | 28 g | BrC=1C=C(C(=O)O)C=CC1Br | C7H4Br2O2
reactant | hydrochloric acid | 6N, 150 ml | Cl | ClH
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-dibromobenzyl alcohol | 19 g | BrC=1C=C(CO)C=CC1Br | C7H6Br2O
